US04382090
Following the procedure of Example 1, a stirred solution containing 3.2 g. of dimethylaminothioacetamide hydrochloride, and 6.48 g of bromomethyl 4-phthalimidobutyl ketone [prepared by the procedure of Chem. Listy., 49, 1385 (1955); C.A., 50, 5573c (1956)]; in 50 ml. of ethanol was heated at refluxing temperature for about 5 hours and was then cooled. Volatile constituents were removed by evaporation in vacuo leaving 2-dimethylaminomethyl-4-(4-phthalimido-1-butyl)thiazole as a semi-solid residue. The compound was utilized without further purification.

reactant | dimethylaminothioacetamide hydrochloride | Cl.CN(C)CC(=S)N
reactant | bromomethyl 4-phthalimidobutyl ketone | 6.48 g | C1(C=2C(C(N1CCCCC(=O)CBr)=O)=CC=CC2)=O | C14H14BrNO3
solvent | ethanol | C(C)O | C2H6O
product | 2-dimethylaminomethyl-4-(4-phthalimido-1-butyl)thiazole | CN(C)CC=1SC=C(N1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C18H21N3O2S
